US07737166B2
N-(5-Cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2,2-trifluoroacetamide (I-37)
Under nitrogen atmosphere, tetrakistriphenylphosphine palladium(0) (288 mg, 0.25 mmol) was added to an N,N-dimethylformamide (15 ml) suspension of N-(2-cyano-5-fluoro-4-iodo-6-methoxy-3-methylphenyl)-2,2,2-trifluoroacetamide (I-35) (500 mg, 1.24 mmol), phenylboronic acid (228 mg, 1.87 mmol), potassium phosphate n-hydrate (890 mg, 3.1 mmol), followed by stirring with heating under reflux for 15 hours and a half. After cooling to room temperature, water and saturated brine were added to the reaction liquid, followed by extraction three times with ethyl acetate, the organic layer was washed with saturated ammonium chloride water, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with n-hexane:ethyl acetate (5:1) was concentrated under reduced pressure to obtain the entitled compound (427 mg, 98%) as a white solid.

reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | N-(2-cyano-5-fluoro-4-iodo-6-methoxy-3-methylphenyl)-2,2,2-trifluoroacetamide | 1.24 mmol, 500 mg | C(#N)C1=C(C(=C(C(=C1C)I)F)OC)NC(C(F)(F)F)=O | C11H7F4IN2O2
reactant | phenylboronic acid | 1.87 mmol, 228 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | N-(5-Cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2,2-trifluoroacetamide | 427 mg, 98% | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)OC)NC(C(F)(F)F)=O | C17H12F4N2O2
